************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: AO22X4
* View Name:     schematic
* Netlisted on:  Jun  4 07:38:31 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VDD:P
+        VSS:G
+        ExtVDD:P
+        ExtVSS:G

*.PIN VDD
*+    VSS
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    AO22X4
* View Name:    schematic
************************************************************************

.SUBCKT AO22X4 A0 A1 B0 B1 VDD VSS Y
*.PININFO A0:I A1:I B0:I B1:I VDD:I VSS:I Y:O
Mmn3 n0 B1 n2 VSS g45n1svt m=1 l=45n w=260n
Mmn2 n2 B0 VSS VSS g45n1svt m=1 l=45n w=260n
Mmn1 n0 A1 n1 VSS g45n1svt m=1 l=45n w=260n
Mmn0 n1 A0 VSS VSS g45n1svt m=1 l=45n w=260n
Mmn4 Y n0 VSS VSS g45n1svt m=1 l=45n w=1.04u
Mmp3 n0 B1 n3 VDD g45p1svt m=1 l=45n w=390n
Mmp2 n0 B0 n3 VDD g45p1svt m=1 l=45n w=390n
Mmp1 n3 A1 VDD VDD g45p1svt m=1 l=45n w=390n
Mmp0 n3 A0 VDD VDD g45p1svt m=1 l=45n w=390n
Mmp4 Y n0 VDD VDD g45p1svt m=1 l=45n w=1.56u
.ENDS

