************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: AOI2BB2X2
* View Name:     schematic
* Netlisted on:  Jun  4 07:39:17 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VSS:G
+        VDD:P
+        ExtVDD:P
+        ExtVSS:G

*.PIN VSS
*+    VDD
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    AOI2BB2X2
* View Name:    schematic
************************************************************************

.SUBCKT AOI2BB2X2 A0N A1N B0 B1 VDD VSS Y
*.PININFO A0N:I A1N:I B0:I B1:I VDD:I VSS:I Y:O
Mmn5 n3 B1 VSS VSS g45n1svt m=1 l=45n w=520n
Mmn4 Y B0 n3 VSS g45n1svt m=1 l=45n w=520n
Mmn3 Y n1 n2 VSS g45n1svt m=1 l=45n w=520n
Mmn2 n2 n0 VSS VSS g45n1svt m=1 l=45n w=520n
Mmn0 n0 A0N VSS VSS g45n1svt m=1 l=45n w=145n
Mmn1 n1 A1N VSS VSS g45n1svt m=1 l=45n w=145n
Mmp5 Y B1 n4 VDD g45p1svt m=1 l=45n w=780n
Mmp4 Y B0 n4 VDD g45p1svt m=1 l=45n w=780n
Mmp2 n4 n0 VDD VDD g45p1svt m=1 l=45n w=780n
Mmp0 n0 A0N VDD VDD g45p1svt m=1 l=45n w=215n
Mmp1 n1 A1N VDD VDD g45p1svt m=1 l=45n w=215n
Mmp3 n4 n1 VDD VDD g45p1svt m=1 l=45n w=780n
.ENDS

